US06140100
A 250 mL 3-necked flask equipped with a reflux condenser and a magnetic stirrer was charged with 1.45 g of 3-cyano-L-tyrosine, 50 mL of concentrated HCl, and 50 mL of water. The solution was heated to reflux with stirring. After 2 days, analysis of the reaction mixture by HPLC (C18, 90:10:0.1 H2O:MeCN:TFA) indicated a major component at k1 =2.23 (75%) and a minor component at k1 =1.59 (25%). After 4 days HPLC indicated only the k1 =2.23 material. The reaction mixture was cooled to RT, filtered, and the filtrate was concentrated in vacuo to dryness to give 1.2 g of 3-carboxy-L-tyrosine as a dark brown solid. IR analysis (nujol) indicated loss of the nitrile stretch of 3-cyano-L-tyrosine, at 2223 cm-1. The crude solid was added to 60 mL of anhydrous MeOH in a 250 mL 3-necked flask equipped with a condenser and a magnetic stirrer. The mixture was acidified by bubbling HCl gas through for 5 min and heated to reflux with stirring. After 6 h, the reaction mixture was cooled to RT and neutralized with solid NaHCO3. The mixture was concentrated in vacuo to dryness, mixed with 100 mL of water, and extracted with CH2Cl2 (4×50 mL). The combined extracts were washed with 5% aqueoous NaHCO3 (2×50 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to 10 mL. The solution was diluted with 35 mL of ether and treated with 5.5 mL of 1 M etheral HCl. A solid precipitated which was collected by filtration, washed with ether, and dried in vacuo to afford 0.90 (50%) of methyl 3-(methoxycarbonyl)-L-tyrosinate.HCl as an off-white powder, m.p. 211-213° C.

reactant | 3-cyano-L-tyrosine | 1.45 g | C(#N)C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C10H10N2O3
reactant | HCl | 50 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | CC#N | C2H3N
product | 3-carboxy-L-tyrosine | 1.2 g | C(=O)(O)C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C10H11NO5
